US04837217
Preparation of 2-t-butyl-4-chloro-5-[4-(2-diethylaminoethoxy)-α-methylbenzyloxy]-3(2H)-pyridazinone (Compound No. 789)
By using 1.0 g of 2-t-butyl-4,5-dichloro-3(2H)-pyridazinone and 1.1 g of 4-(2-diethylaminoethoxy)-α-methylbenzyl alcohol and similarly to the procedures in Preparation Example 1, a crude product was obtained. The crude product was then purified through column chromatography (eluting with chloroform/methanol=200/5) to obtain 710 mg of the aimed product as an oil.

reactant | 2-t-butyl-4,5-dichloro-3(2H)-pyridazinone | 1.0 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)Cl | C8H10Cl2N2O
reactant | 4-(2-diethylaminoethoxy)-α-methylbenzyl alcohol | 1.1 g | C(C)N(CCOC1=CC=C(C(C)O)C=C1)CC | C14H23NO2
product | 2-t-butyl-4-chloro-5-[4-(2-diethylaminoethoxy)-α-methylbenzyloxy]-3(2H)-pyridazinone | 710 mg | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)OC(C1=CC=C(C=C1)OCCN(CC)CC)C | C22H32ClN3O3
